US07432256B2
b) E-2-Fluoro-5-trifluoromethoxy-benzaldehyde oxime
A solution of 2-fluoro-5-trifluoromethoxy-benzaldehyde (9.78 g, 47 mmol) in ethanol (50 ml) was treated with hydroxylamine HCl (3.59 g, 52 mmol) and sodium acetate (4.27 g, 52 mmol). The mixture was refluxed for 2 h, the solvent was evaporated and the residue stirred with water (50 ml). The precipitate was filtered, dried and chromatographed (SiO2, heptanes:Ethyl acetate=100:0 to 80:2) and afforded the title compound (9.21 g, 88%) as a white solid. MS: m/e=223.0 [M]+.

reactant | 2-fluoro-5-trifluoromethoxy-benzaldehyde | 47 mmol, 9.78 g | FC1=C(C=O)C=C(C=C1)OC(F)(F)F | C8H4F4O2
reactant | hydroxylamine HCl | 52 mmol, 3.59 g | Cl.NO
reactant | sodium acetate | 52 mmol, 4.27 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | E-2-Fluoro-5-trifluoromethoxy-benzaldehyde oxime | 9.21 g, 88% | FC1=C(/C=N/O)C=C(C=C1)OC(F)(F)F | C8H5F4NO2
